US07115611B2
B] 2-(4-Trifluoromethoxy-phenyl)-4-trifluoromethyl-pyrimidine-5-carboxylic acid ethyl ester
In analogy to the procedures described in examples 108B], ethyl 2-chloro-4-(trifluoromethyl)pyrimidine-5-carboxylate and 4-(trifluoromethoxy)phenylboronic acid gave the title compound as an off-white powder.

reactant | ethyl 2-chloro-4-(trifluoromethyl)pyrimidine-5-carboxylate | ClC1=NC=C(C(=N1)C(F)(F)F)C(=O)OCC | C8H6ClF3N2O2
reactant | 4-(trifluoromethoxy)phenylboronic acid | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
product | 2-(4-Trifluoromethoxy-phenyl)-4-trifluoromethyl-pyrimidine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NC(=NC1)C1=CC=C(C=C1)OC(F)(F)F)C(F)(F)F | C15H10F6N2O3
